US07560597B2
2′,4′-Dichloro-biphenyl-4-carboxylic acid methyl ester
4-Bromo-benzoic acid methyl ester (3 g) was dissolved in a mixture of toluene (20 mL) and ethanol (20 mL). 2,4-Dichloro-phenyl boronic acid (3 g) was added followed by 2 M Na2CO3 (20 mL). The mixture was stirred vigorously under N2 and (PPh3)4Pd (0.5 g) added. The mixture was refluxed with stirring for 3 hours under an atmosphere of N2. The solvent was removed under vacuum, the residue was dissolved in ethyl acetate, and washed with water and saturated NaCl solution. After drying (Na2SO4), the solvent was evaporated and the resultant oil purified by column chromatography to give a fluffy white powder, which was recrystallised from ethanol to give the title compound as long needles. 13C NMR (CDCl3): δ 52.3, 127.3, 129.5, 129.5, 129.6, 129.9, 131.9, 133.1, 134.4, 138.1, 142.8 and 166.8. 1H NMR (CDCl3): δ 3.93 (3H, s), 7.27 (2H, m), 7.47 (2H, d, J=8.5 Hz), 7.49 (1H, s) and 8.09 (2H, d, J=8.2 Hz).

reactant | 4-Bromo-benzoic acid methyl ester | 3 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | 2,4-Dichloro-phenyl boronic acid | 3 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | (PPh3)4Pd | 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,4′-Dichloro-biphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl | C14H10Cl2O2
